US07183418B2
2,5-Bis(3-octylthiophen-2-yl)-3,4-dimethylthieno[2,3-b]thiophene
To a solution of 2-bromo-3-octylthiophene (4.0 g, 14.5 mmol) in dry THF (20 ml) under nitrogen was added a solution of Rieke zinc (Aldrich, 1.1 g 20 ml of THF, 17 mmol) at −78° C. The solution was allowed to warm to RT and stirred for 16 h. Stirring was stopped and the solution allowed to settle for 2 h. The resultant solution was transferred by cannula into a flask containing 2,5-dibromo-3,4-dimethylthieno[2,3-b]thiophene (1.28 g, 3.9 mmol), degassed THF (50 ml) and [1,1′-bis(diphenylphosphino)ferrocene]palladium(II) chloride (64 mg, 2 mol %) at 0° C. The reaction was warmed to RT over 30 min, and then refluxed for 24 h. The reaction was cooled and quenched with 5% HCL. The resultant mixture was extracted with ethyl acetate (3×50 ml), and the combined organics were washed with brine, dried (Na2SO4), filtered and concentrated under reduced pressure. The crude product was purified by flash chromatography over silica (eluent: petrol), followed by reverse phase chromatography (eluent: CH3CN/THF 2:1) to afford the product as a colourless oil (1.56 g, 72%). M/Z 556 (M+). Found C, 69.1%, H, 7.6%. Calc. for C32H44S4 C, 69.0; H 8.0. NMR gave the expected signals.

reactant | 2-bromo-3-octylthiophene | 14.5 mmol, 4.0 g | BrC=1SC=CC1CCCCCCCC | C12H19BrS
reactant | 2,5-dibromo-3,4-dimethylthieno[2,3-b]thiophene | 3.9 mmol, 1.28 g | BrC1=C(C2=C(SC(=C2C)Br)S1)C | C8H6Br2S2
solvent | THF | 20 ml | C1CCOC1 | C4H8O
catalyst | zinc | 17 mmol, 20 ml, 1.1 g | [Zn] | Zn
product | 2,5-Bis(3-octylthiophen-2-yl)-3,4-dimethylthieno[2,3-b]thiophene | 1.56 g, 72% | C(CCCCCCC)C1=C(SC=C1)C1=C(C2=C(SC(=C2C)C=2SC=CC2CCCCCCCC)S1)C | C32H44S4
